US07320992B2
2-Bromo-6-methyl-benzoic acid methyl ester (2.18 g), NBS (4.89 g), and AIBN (0.486 g) were taken into CCl4 (15 mL) and heated at reflux for 8 h. After cooling to RT, the solid was removed by filtration, and the filtrate was concentrated to give an orange oil as crude material. Purification by chromatography (silica gel, 100 g, 5-15% EtOAc/hexanes) afforded 2-bromo-6-bromomethyl-benzoic acid methyl ester as colorless oil.

reactant | 2-Bromo-6-methyl-benzoic acid methyl ester | 2.18 g | COC(C1=C(C=CC=C1C)Br)=O | C9H9BrO2
reactant | NBS | 4.89 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.486 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-6-bromomethyl-benzoic acid methyl ester | COC(C1=C(C=CC=C1CBr)Br)=O | C9H8Br2O2
